US08373159B2
Synthesis of 3-bromo-9-phenyl-6-triphenylsilylcarbazole
A solution of 9-(3-methoxyphenyl)-3,6-dibromo-9H-carbazole (26 g, 1 eq) in dry THF (700 ml) is admixed slowly at −78° C. under argon with n-butyllithium (1.6 M in hexane, 41 ml, 1 eq) and stirred at −78° C. for 2 h. After a solution of chlorotriphenylsilane (30 g, 1.5 eq) in dry THF (150 ml) had been added at −78° C., the mixture was warmed to room temperature overnight with stirring. Excess butyllithium is hydrolyzed with saturated ammonium chloride solution. The precipitated reaction product is filtered off and washed thoroughly with methylene chloride. The combined methylene chloride filtrates are extracted with water and concentrated to dryness. The residue is stirred with acetone and filtered off. Yield 74%.

reactant | 9-(3-methoxyphenyl)-3,6-dibromo-9H-carbazole | 26 g, 1 eq | COC=1C=C(C=CC1)N1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br | C19H13Br2NO
reactant | n-butyllithium | 1.6 M, 41 ml, 1 eq | C(CCC)[Li]
reactant | chlorotriphenylsilane | 30 g, 1.5 eq | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-bromo-9-phenyl-6-triphenylsilylcarbazole | Yield 74% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H26BrNSi
